US05500423
2-[4-(4-Bromophenoxy)-3-phenyl-1-piperidinyl]-5,6-dihydro-4H-imidazo[ 4,5,1-ij]quinoline
A solution of 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline (3.00 g), 4-(4-bromophenoxy)-3-phenylpiperidine (5.20 g), triethylamine (1.62 g) and dimethylformamide (50 ml) was stirred at 115° C., under nitrogen, overnight. The solution was poured onto ice water (600 ml) and the precipitate was collected. The precipitate was dissolved in dichloromethane and the solution was washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was triturated with ethyl acetate and then recrystallized from chloroform-ether to give 4.25 g (56%) of product, mp 188°-189° C.

reactant | 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 3.00 g | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
reactant | 4-(4-bromophenoxy)-3-phenylpiperidine | 5.20 g | BrC1=CC=C(OC2C(CNCC2)C2=CC=CC=C2)C=C1 | C17H18BrNO
reactant | triethylamine | 1.62 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-Bromophenoxy)-3-phenyl-1-piperidinyl]-5,6-dihydro-4H-imidazo[ 4,5,1-ij]quinoline | 4.25 g, 56% | BrC1=CC=C(OC2C(CN(CC2)C2=NC=3C=CC=C4CCCN2C34)C3=CC=CC=C3)C=C1 | C27H26BrN3O
